US05097023
Preparation of Methyl 2,3,6-Tri-O-Benzyl-4-O-Trifluoromethylsulfonyl-α-D-Galactopyranoside
To a solution of dry pyridine (0.46 mL) in methylene chloride (17.5 mL) cooled to -15° C. was added trifluoromethane sulfonic anhydride (0.87 mL). The mixture was stirred during 15 min at -10° C., then methyl 2,3,6-tri-O-benzyl-α-D-galactopyranoside (1.2 g, 2.58 mmol) in methylene chloride (5 mL) was added (N. Morishima, S. Koto, M. Oshima, A. Sugimoto and S. Zen, Bull. Chem. Soc. Jpn, 56, 2849 (1983)). The mixture was washed with water. The organic layer was dried over sodium sulfate, filtered and concentrated under reduced pressure to afford an oil which was the expected triflate methyl 2,3,6-tri-O-benzyl-4-O-trifluoromethyl-sulfonyl-α-D -galactopyranoside (1.43 g, 93%).

reactant | pyridine | 0.46 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethane sulfonic anhydride | 0.87 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | methyl 2,3,6-tri-O-benzyl-α-D-galactopyranoside | 2.58 mmol, 1.2 g | C(C1=CC=CC=C1)O[C@H]1[C@@H](OC)O[C@@H]([C@@H]([C@@H]1OCC1=CC=CC=C1)O)COCC1=CC=CC=C1 | C28H32O6
reactant | triflate methyl 2,3,6-tri-O-benzyl-4-O-trifluoromethyl-sulfonyl-α-D -galactopyranoside | 1.43 g | C(C1=CC=CC=C1)O[C@H]1[C@@H](OC)O[C@@H]([C@@H]([C@@H]1OCC1=CC=CC=C1)OC(F)(F)F)C(OCC1=CC=CC=C1)=S(=O)=O.OS(=O)(=O)C(F)(F)F
solvent | methylene chloride | 17.5 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | Methyl 2,3,6-Tri-O-Benzyl-4-O-Trifluoromethylsulfonyl-α-D-Galactopyranoside | C(C1=CC=CC=C1)O[C@H]1[C@@H](OC)O[C@@H]([C@@H]([C@@H]1OCC1=CC=CC=C1)OS(=O)(=O)C(F)(F)F)COCC1=CC=CC=C1 | C29H31F3O8S
